US08217043B2
a) 4-Chloro-1-[(4-methoxy-benzylidene)-amino]-1H-pyrrole-2-carboxylic acid methyl ester
Prepared according to the imine formation condition used in Example 18 step b) from 1-amino-4-chloro-1H-pyrrole-2-carboxylic acid methyl ester and 4-methoxy benzaldehyde in refluxing methanol for 12 h. 1H NMR (CDCl3, δ in ppm): 8.33 (s, 1H), 7.78 (d, 2H, J=8.8 Hz), 7.13 (d, 1H, J=2.2 Hz), 6.96 (d, 2H, J=8.8 Hz), 6.87 (d, 1H, J=1.8 Hz), 3.87 (s, 3H), 3.82 (s, 3H).

reactant | 1-amino-4-chloro-1H-pyrrole-2-carboxylic acid methyl ester | COC(=O)C=1N(C=C(C1)Cl)N | C6H7ClN2O2
reactant | 4-methoxy benzaldehyde | COC1=CC=C(C=O)C=C1 | C8H8O2
solvent | methanol | CO | CH4O
product | 4-Chloro-1-[(4-methoxy-benzylidene)-amino]-1H-pyrrole-2-carboxylic acid methyl ester | COC(=O)C=1N(C=C(C1)Cl)N=CC1=CC=C(C=C1)OC | C14H13ClN2O3
